US05214197
To a solution of tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate (16.30 g, 60.08 mmol) in toluene (120.0 ml) which had been cooled to 0° C., sodium methoxide (1M in methanol) (60.3 ml) was dropwise added in an argon atmosphere. After stirring the solution at 0° C. for 30 minutes, 1N hydrochloric acid (160.5 ml) was dropwise added and the mixture was stirred for 10 minutes at 0° C. Most of the organic solvent was evaporated off under reduced pressure, and the residual mixture was extracted with ethyl acetate and washed with a saturated saline and a phosphate buffer solution (pH 7.0). The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (13.26 g, 53.85 mmol). Yield, 89.6 %.

reactant | tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate | 60.08 mmol, 16.30 g | CC1(OC(C(O1)CC(CC(=O)OC(C)(C)C)=O)=O)C | C13H20O6
reactant | sodium methoxide | 1M, 60.3 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1N, 160.5 ml | Cl | ClH
solvent | toluene | 120.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 53.85 mmol, 13.26 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)=O | C11H18O6
